US08466181B2
4-(2-Fluorophenyl)-1-methyl-5-(1-(4-nitrophenyl)-1H-imidazol-4-yl)-1H-1,2,3-triazole
As described for example 8e, 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole (70 mg, 0.29 mmol), was converted, using 1-fluoro-4-nitrobenzene instead of 4-fluorobenzotrifluoride, to the title compound (100 mg, 95%) which was obtained as a yellow solid. MS: m/e=365.1 [M+H]+.

reactant | 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole | 0.29 mmol, 70 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-(2-Fluorophenyl)-1-methyl-5-(1-(4-nitrophenyl)-1H-imidazol-4-yl)-1H-1,2,3-triazole | 100 mg, 95% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C18H13FN6O2
